US03989694
7-Amino-3-(5-carbethoxymethyl-1,2,4-triazol-3-ylthiomethyl)-3-cephem-4-carboxylic acid
Reaction of 3-carbethoxymethyl-1,2,4-triazole-5-thiol sodium salt, prepared as described in Example 8, and 7-aminocephalosporanic acid according to the procedure described in Example 8 gives the title compound.

reactant | 3-carbethoxymethyl-1,2,4-triazole-5-thiol sodium salt | [Na].C(=O)(OCC)CC1=NNC(=N1)S
reactant | 7-aminocephalosporanic acid | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
product | 7-Amino-3-(5-carbethoxymethyl-1,2,4-triazol-3-ylthiomethyl)-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CSC2=NNC(=N2)CC(=O)OCC)C(=O)O)C1=O | C14H17N5O5S2
